US04962145
Glycerol monomontanate
400 g montanic acid (Hoechst-Wachs S), 97 g glycerol (5% excess) and 0.5 g tin powder were reacted as in Example 1. A yellow, brown-tinged hard wax having a dropping point of 84.2° C. was obtained.

reactant | montanic acid | 400 g | C(CCCCCCCCCCCCCCCCCCCCCCCCCCC)(=O)O | C28H56O2
reactant | tin | 0.5 g | [Sn] | Sn
reactant | glycerol | 97 g | OCC(O)CO | C3H8O3
product | Glycerol monomontanate | C(CCCCCCCCCCCCCCCCCCCCCCCCCCC)(=O)OCC(O)CO | C31H62O4
